US08580983B2
3α-fluor, 5α-pregnan-20-one oxime
3α-fluor, 5α-pregnan-20-one (10 mmol) is dissolved in dichloromethane 5 mL and ethanol 50 mL at rt and air atmosphere, in a 250 mL round bottom flask. 4 equiv. of NH2OH chlorhydrate and 4 equiv. of sodium acetate are dissolved in 5 mL H2O and then added to the steroid solution. 20 mL of ethanol are added and the mixture put on reflux overnight. The mixture is then cooled and the solvent removed under reduced pressure. The white residue is then treated with 50 mL H2O and 50 mL dichloromethane, the aqueous phase extracted with 3×30 mL dichloromethane. The collected organic phases are then dried over MgSO4, filtrated and the solvent removed under reduced pressure. The final residue is purified by silica flash column chromatography (dichloromethane:diethyl ether 4:1). Quantitative yield.

reactant | 5α-pregnan-20-one | 10 mmol | CC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CCCC[C@]4(C)[C@H]3CC[C@]12C)=O | C21H34O
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | NH2OH | 4 equiv. | NO | H3NO
reactant | sodium acetate | 4 equiv. | C(C)(=O)[O-].[Na+]
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | H2O | 5 mL | O | H2O
product | 5α-pregnan-20-one oxime | Quantitative yield | CC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CCCC[C@]4(C)[C@H]3CC[C@]12C)=NO | C21H35NO
